US08476197B2
To a solution of ethyl 3-chloro-3-(2-chloropyridin-3-yl)-2-cyanoacrylate (0.2 g, 0.738 mmol, 1 eq.) in 3 ml of acetonitril was added 2-phenyl-3-methylbutylamine hydrochloride (0.147 g, 0.738 mmol, 1 eq.) at room temperature followed by triethylamine (TEA) (0.164 g, 1.62 mmol, 2.2 eq.). The reaction was microwaved (130° C., 600 s, fixed hold, high absorption) and the solvent evaporated. The residual oil was subjected to column chromatography to give ethyl (2Z)-3-(2-chloropyridin-3-yl)-2-cyano-3-[(3-methyl-2-phenylbutyl)amino]acrylate (0.253 g, 85% yield) as a mixture of 2 atropoisomers.

reactant | ethyl 3-chloro-3-(2-chloropyridin-3-yl)-2-cyanoacrylate | 0.738 mmol, 0.2 g, 1 eq. | ClC(=C(C(=O)OCC)C#N)C=1C(=NC=CC1)Cl | C11H8Cl2N2O2
reactant | 2-phenyl-3-methylbutylamine hydrochloride | 0.738 mmol, 0.147 g, 1 eq. | Cl.C1(=CC=CC=C1)C(CN)C(C)C
reactant | triethylamine | 1.62 mmol, 0.164 g, 2.2 eq. | C(C)N(CC)CC | C6H15N
solvent | acetonitril | 3 ml | C(C)#N | C2H3N
product | ethyl (2Z)-3-(2-chloropyridin-3-yl)-2-cyano-3-[(3-methyl-2-phenylbutyl)amino]acrylate | 0.253 g, 85% yield | ClC1=NC=CC=C1/C(=C(/C(=O)OCC)\C#N)/NCC(C(C)C)C1=CC=CC=C1 | C22H24ClN3O2
